US08389527B2
N-(3-fluoro-4-pyridinyl)-6-((trans-4-hydroxycyclohexyl)amino)-8-(3-isoxazolylamino)imidazo[1,2-b]pyridazine-3-carboxamide
A mixture of 6-chloro-N-(3-fluoropyridin-4-yl)-8-(isoxazol-3-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide (20 mg, 0.054 mmol) and (trans)-4-aminocyclohexanol (61.6 mg, 0.535 mmol) in NMP (0.4 mL) was heated at 110° C. overnight. The reaction mixture was cooled to room temperature, and purified by reversed-phase preparative HPLC. The desired fractions were concentrated and dried to give 15 mg the title compound as a beige solid. HPLC Rt=2.615 min (Chromolith SpeedROD 4.6×50 mm, 10-90% aqueous methanol containing 0.1% TFA, 4 min gradient, monitored at 220 nm), [M+1]=453.

reactant | 6-chloro-N-(3-fluoropyridin-4-yl)-8-(isoxazol-3-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 0.054 mmol, 20 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=C(C=NC=C2)F)NC2=NOC=C2 | C15H9ClFN7O2
reactant | (trans)-4-aminocyclohexanol | 0.535 mmol, 61.6 mg | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | NMP | 0.4 mL | CN1CCCC1=O | C5H9NO
product | N-(3-fluoro-4-pyridinyl)-6-((trans-4-hydroxycyclohexyl)amino)-8-(3-isoxazolylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 15 mg | FC=1C=NC=CC1NC(=O)C1=CN=C2N1N=C(C=C2NC2=NOC=C2)N[C@@H]2CC[C@H](CC2)O | C21H21FN8O3
